US06566403B1
Preparation of (R)-isovaline methyl ester
The (R)-isovaline methyl ester hydrochloride may be converted to (R)-N-(3-chloro-1-ethyl- 1-methyl-2-oxopropyl)-3,5-dichloro-4-methylbenzamide (mp. 155.5-156° C., [α]D=+4.14 in ethanol) using the above-described sequence for preparation of the (S)-enantiomer.

reactant | (R)-isovaline methyl ester hydrochloride | Cl.COC([C@](N)(CC)C)=O
reactant | (R)-N-(3-chloro-1-ethyl- 1-methyl-2-oxopropyl)-3,5-dichloro-4-methylbenzamide | ClCC([C@@](C)(CC)NC(C1=CC(=C(C(=C1)Cl)C)Cl)=O)=O | C14H16Cl3NO2
product | (R)-isovaline methyl ester | COC([C@](N)(CC)C)=O | C6H13NO2
